US06051712
A solution of 78 g (197 mmol) of (RS)-1-benzyl-4-[4-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl]-piperidin-4-ol in 400 ml of methanol was treated with 470 ml of 2N hydrochloric acid and stirred at room temperature for 5 hours. For the working-up, the reaction solution was poured into 1500 ml of saturated sodium hydrogen carbonate solution and subsequently extracted three times with 1000 ml of ethyl acetate each time. The combined organic phases were dried over sodium sulphate and evaporated under reduced pressure. For purification of the crude substance, a flash chromatography on silica gel using a 95:5 mixture of methylene chloride and methanol as the eluent was carried out. There were obtained 51.6 g (84% of theory) of 1-benzyl-4-[4-(2-hydroxy-ethyl)-phenyl]-piperidin-4-ol as a yellowish solid; MS: 312 (M+H)+.

reactant | (RS)-1-benzyl-4-[4-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-phenyl]-piperidin-4-ol | 197 mmol, 78 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)CCOC1OCCCC1 | C25H33NO3
reactant | hydrochloric acid | 2N, 470 ml | Cl | ClH
reactant | sodium hydrogen carbonate | 1500 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 400 ml | CO | CH4O
product | 1-benzyl-4-[4-(2-hydroxy-ethyl)-phenyl]-piperidin-4-ol | 51.6 g, 84% | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=CC=C(C=C1)CCO | C20H25NO2
